US09085555B2
A. (S)-4-Formyl-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester
POCl3 (7.59 mL, 83 mmol) was added in 25 min at 0° C. under N2 atmosphere to DMF (6.39 mL, 83 mmol) and the mixture was stirred at RT for 20 min. Dry CH2Cl2 (150 mL) was added at 0° C., followed by a solution of (S)-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (10 g, 41.4 mmol) in CH2Cl2 (50 mL). The mixture was stirred 30 min at RT until completion. The mixture was slowly poured into an ice cold aqueous solution of NaOH 10 N (150 mL) and extracted with CH2Cl2 (×3). The combined organic extracts were washed with brine (×2), with water, dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 9:1) to give the desired material as a yellow oil. Rf, TLC (c-hexane/EtOAc 4:1)=0.2; MS (UPLC-MS): 270 [M+H]+, 170 [M−Boc]−; tR (HPLC conditions f): 1.93 min.

reactant | POCl3 | 83 mmol, 7.59 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 83 mmol, 6.39 mL | CN(C)C=O | C3H7NO
reactant | (S)-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 41.4 mmol, 10 g | CCOC(=O)[C@H]1N(C=CC1)C(=O)OC(C)(C)C | C12H19NO4
reactant | NaOH | 10 N, 150 mL | [OH-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-Formyl-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | CCOC(=O)[C@H]1N(C=C(C1)C=O)C(=O)OC(C)(C)C | C13H19NO5
